US04183932
To a solution of 2.33 g of 2,6-dichloro-3,4-dihydro-3-methyl-4-phenylquinazoline in 30 ml of dimethylsulfoxide was added 1.0 g of sodium azide. The mixture was heated at 100° C. for 3 hours and then poured into ice-water. The precipitate formed was collected by filtration, washed with water and dried to give 2.3 g of 7-chloro-4,5-dihydro-4-methyl-5-phenyltetrazolo[1,5-a]quinazoline, m.p. 280° C.

reactant | 2,6-dichloro-3,4-dihydro-3-methyl-4-phenylquinazoline | 2.33 g | ClC1=NC2=CC=C(C=C2C(N1C)C1=CC=CC=C1)Cl | C15H12Cl2N2
reactant | sodium azide | 1.0 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 7-chloro-4,5-dihydro-4-methyl-5-phenyltetrazolo[1,5-a]quinazoline | 2.3 g | ClC=1C=C2C(N(C=3N(C2=CC1)N=NN3)C)C3=CC=CC=C3 | C15H12ClN5
